US07109186B2
Compound 90-B: N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolane-4-ylidene)-N-methoxy-acetamide
A suspension of (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetic acid (4.37 g, 25.4 mmol) in benzene (30 mL) was refluxed for 1 h with oxalyl chloride (15 mL). The resulting solution was cooled and concentrated. The residue was dissolved in dichloromethane (30 mL) and cooled to 0° C. and N-(3,4-dichloro-benzyl)-O-methyl-hydroxylamine (5.3 g, 22 mmol) in dichloromethane (30 mL) and pyridine (18 mL) was added dropwise. The resulting mixture was stirred at room temp for 18 h. The mixture was diluted with 1N HCl and extracted with EtOAc. The organic phase was washed with 1N HCl, dried (sodium sulfate) and concentrated to give the title compound as a yellow solid (7.59 g, 83% yield). 1HNMR (300 MHz, CDCl3) δ: 7.44 (1H, s), 7.39 (2H, d, J=8.05 Hz), 7.19 (2H, d, J=8.05 Hz), 6.37 (1H, s), 4.75 (2H, s), 3.70 (3H, s), 1.74 (6H, s).

reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetic acid | 25.4 mmol, 4.37 g | CC1(OC(C(O1)=CC(=O)O)=O)C | C7H8O5
reactant | oxalyl chloride | 15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(3,4-dichloro-benzyl)-O-methyl-hydroxylamine | 22 mmol, 5.3 g | ClC=1C=C(CNOC)C=CC1Cl | C8H9Cl2NO
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | pyridine | 18 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolane-4-ylidene)-N-methoxy-acetamide | 7.59 g, 83% yield | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)OC)C=CC1Cl | C15H15Cl2NO5
